US08492558B2
B.2 Preparation of N,N-dimethyl-N′-(2-chlorophenyl)formamidine
98% 2-chloroaniline (195 g; 1.5 mol) and 98% dimethylformamide dimethyl acetal (228.2 g; 1.8 mol) were dissolved in toluene (300 g), and the solution was heated under reflux for 4 h. During this time, the internal temperature fell from 96 to 77° C. Thereafter, 15 g of distillate were removed, and the internal temperature rose again during this time to 84° C. Finally, the reaction solution was concentrated on a rotary evaporator at 90° C. and 5 mbar and the resulting brown oil (270.5 g) was fractionated by means of column distillation. The main fraction distilled over at 120° C. and 1.4 mbar and comprised the product in a purity of >99% (determined using area percentages of the GC spectrum).

reactant | 2-chloroaniline | 1.5 mol, 195 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | dimethylformamide dimethyl acetal | 1.8 mol, 228.2 g | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 300 g | C1(=CC=CC=C1)C | C7H8
product | N,N-dimethyl-N′-(2-chlorophenyl)formamidine | CN(C=NC1=C(C=CC=C1)Cl)C | C9H11ClN2
